US07446102B2
(8S,11S,14S)-14-Amino-N-((1S)-1-{[(2-aminoethyl)amino]carbonyl}-4-{[amino(imino)methyl]amino}butyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide pentahydrochloride
5.3 mg (0.005 mmol) of tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-1-{[(2-aminoethyl)amino]carbonyl}-4-{[amino(imino)methyl]amino}butyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate di(hydrotrifluoroacetate) (Example 209A) are added into 0.4 ml of a 4N solution of hydrogen chloride in dioxane and stirred at RT for 30 min. The reaction solution is concentrated, coevaporated with dichloromethane several times and dried under high vacuum.

reactant | tert-butyl{3-[(8S,11S,14S)-8-{[((1S)-1-{[(2-aminoethyl)amino]carbonyl}-4-{[amino(imino)methyl]amino}butyl)amino]carbonyl}-14-[(tert-butoxycarbonyl)amino]-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaen-11-yl]propyl}carbamate | 0.005 mmol, 5.3 mg | C(C)(C)(C)OC(NCCC[C@H]1C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C[C@@H](C(N1)=O)NC(=O)OC(C)(C)C)C3)O)=C2)O)C(=O)N[C@@H](CCCNC(=N)N)C(=O)NCCN)=O)=O | C41H62N10O10
reactant | hydrogen chloride | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
product | (8S,11S,14S)-14-Amino-N-((1S)-1-{[(2-aminoethyl)amino]carbonyl}-4-{[amino(imino)methyl]amino}butyl)-11-(3-aminopropyl)-5,17-dihydroxy-10,13-dioxo-9,12-diazatricyclo[14.3.1.12,6]henicosa-1(20),2(21),3,5,16,18-hexaene-8-carboxamide pentahydrochloride | Cl.Cl.Cl.Cl.Cl.N[C@@H]1C(N[C@H](C(N[C@@H](CC2=C(C=CC(C=3C=CC(=C(C1)C3)O)=C2)O)C(=O)N[C@@H](CCCNC(=N)N)C(=O)NCCN)=O)CCCN)=O | InChI=1S/C31H46N10O6.5ClH/c32-9-1-3-23-29(46)41-24(30(47)40-22(28(45)37-12-10-33)4-2-11-38-31(35)36)16-20-14-18(6-8-26(20)43)17-5-7-25(42)19(13-17)15-21(34)27(44)39-23;;;;;/h5-8,13-14,21-24,42-43H,1-4,9-12,15-16,32-34H2,(H,37,45)(H,39,44)(H,40,47)(H,41,46)(H4,35,36,38);5*1H/t21-,22-,23-,24-;;;;;/m0...../s1
